US04746356
1-Methyl-1H-benzotriazole-7-sulfonamide
To a stirred solution of 1.5 g of 1-methyl-1H-benzotriazole-7-sulfonyl chloride and 75 mL of tetrahydrofuran at 0° C. was added 5 mL of ammonia under an inert atmosphere. The resulting suspension was stirred at ambient temperature for 15 hours. Concentrated ammonium hydroxide (10 mL) and brine (10 mL) were added. The aqueous layer was adjusted to pH 7 with concentrated hydrochloric acid and was extracted with ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered, and stripped to afford 1.38 g of the title compound as a white solid, m.p. 198°-200° C.

reactant | 1-methyl-1H-benzotriazole-7-sulfonyl chloride | 1.5 g | CN1N=NC2=C1C(=CC=C2)S(=O)(=O)Cl | C7H6ClN3O2S
reactant | ammonia | 5 mL | N | H3N
reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | brine | 10 mL | [Cl-].[Na+].O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 1-Methyl-1H-benzotriazole-7-sulfonamide | 1.38 g | CN1N=NC2=C1C(=CC=C2)S(=O)(=O)N | C7H8N4O2S
